US06022880
7-Chloro-3-[(3-(4-fluorobenzoyl)propyl)(4-pyridinyl)amino]benzo[b]thiophene hydrochloride.
To a mixture of sodium hydride (645 mg, 16.13 mmole) in DMF (10 mL) was added dropwise a solution of 7-chloro-3-(4-pyridinyl)aminobenzo[b]thiophene (3.5 g, 13.44 mmole) in DMF (35 mL) and then 4'-fluoro-4-chlorobutyrophenone ethylene ketal (3.95 g, 16.13 mmole) was added. This mixture was heated with stirring at 70° C. for three hours, poured into ice and extracted with ethyl acetate. The organics were washed twice with water, dried (MgSO4), and then concentrated. The residue was flash chromatographed (silica gel; EtOAc, then 5% MeOH/EtOAc) to obtain a dark oil, which was dissolved in methanol and treated with "Norite" to obtain 2.88 g of a white froth after concentration. Concentrated HCl (30 mL) was added and the mixture was heated on a steam bath for 45 minutes. The reaction mixture was cooled, made basic with 10% sodium hydroxide and extracted with diethyl ether. The organics were washed with water and brine, dried (MgSO4), and concentrated to obtain a froth. The froth was dissolved in methanol and ethereal hydrogen chloride, concentrated, and the frothy oil was triturated with diethyl ether. The organics were decanted and the resulting solid was recrystallized from methanol and diethyl ether to obtain 2.09 g of a white solid, mp 229° C. (dec.), after drying under high vacuum, P2O5, and refluxing xylenes.

reactant | sodium hydride | 16.13 mmole, 645 mg | [H-].[Na+]
reactant | 7-chloro-3-(4-pyridinyl)aminobenzo[b]thiophene | 13.44 mmole, 3.5 g | ClC1=CC=CC2=C1SC=C2NC2=CC=NC=C2 | C13H9ClN2S
reactant | 4'-fluoro-4-chlorobutyrophenone ethylene ketal | 16.13 mmole, 3.95 g | C1COC(CCCCl)(C2=CC=C(C=C2)F)O1 | C12H14ClFO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 7-Chloro-3-[(3-(4-fluorobenzoyl)propyl)(4-pyridinyl)amino]benzo[b]thiophene hydrochloride | 2.09 g | Cl.ClC1=CC=CC2=C1SC=C2N(C2=CC=NC=C2)CCCC(C2=CC=C(C=C2)F)=O | InChI=1S/C23H18ClFN2OS.ClH/c24-20-4-1-3-19-21(15-29-23(19)20)27(18-10-12-26-13-11-18)14-2-5-22(28)16-6-8-17(25)9-7-16;/h1,3-4,6-13,15H,2,5,14H2;1H
